US06867192B1
Dibenzo[b,d]furan-4-carboxylic acid
A solution of 1.6M n-butyllithium in hexane (18.5 ml) was added dropwise to a stirred solution of dibenzofuran (5.0 g) in anhydrous THF (25 ml) at −78° C. under a nitrogen atmosphere. The resulting suspension was allowed to warm to 20° C. where it was stirred for 3 h. It was then cooled to −78° C. and added to a mixture of excess solid carbon dioxide in diethyl ether (250 ml) under a nitrogen atmosphere. The resulting white suspension was allowed to stand for 1 h at 20° C. and was then diluted with 2M sodium hydroxide (500 ml). The aqueous extract was washed with ether (3×200 ml), acidified to pH 1 with 6M hydrochloric acid and extracted with ethyl acetate (3×200 ml). The combined organic extracts were washed with brine (50 ml), dried over magnesium sulphate and evaporated in vacuo to give the title compound as a white solid (3.64 g, 58%). LCMS: Rt 5.06 min; m/z 213 (MH+).

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | dibenzofuran | 5.0 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | 18.5 ml | CCCCCC | C6H14
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 2M, 500 ml | [OH-].[Na+]
product | Dibenzo[b,d]furan-4-carboxylic acid | 3.64 g, 58% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C(=O)O | C13H8O3
